US04783467
1-(4Amino-3-formyl-5-methylphenyl)-1,2,4-triazole
Diisobutylalumnium hydride (11.1 cm3 of a 1.5M solution in toluene) was added dropwise at 0° to a stirred suspension of 1-(4-amino-3-cyano-5-methylphenyl)-1,2,4-triazole (15 g) in THF (20 cm3). The solution was stirred at room temperature for 0.5 hours, heated under reflux for 2 hours, cooled, and treated with methanol (1 cm3) and water (100 cm3). Solid material was filtered off and washed with methanol (50 cm3) and the filtrate was evaporated in vacuo. The residue was taken into 2M hydrochloric acid (20 cm3), warmed for 10 minutes at 100° , and cooled. The solution was neutralised with saturated aqueous sodium carbonate solution and extracted with chloroform (4×50 cm3). The combined organic extracts were dried (MgSO4) and evaporated to give an oil which was chromatographed on silica (Merck "MK 60.9385" [Trade Mark]) eluting with ethyl acetate. Combination and evaporation of appropriate fractions followed by recrystallisation from ethyl acetate/hexan afforded the title compound, m.p. 209°-211° (1.27 g), characterised by n.m.r. and i.r. spectroscopy.

reactant | hydride | [H-]
reactant | 1-(4-amino-3-cyano-5-methylphenyl)-1,2,4-triazole | 15 g | NC1=C(C=C(C=C1C)N1N=CN=C1)C#N | C10H9N5
reactant | methanol | 1 cm3 | CO | CH4O
reactant | water | 100 cm3 | O | H2O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | THF | 20 cm3 | C1CCOC1 | C4H8O
product | 1-(4Amino-3-formyl-5-methylphenyl)-1,2,4-triazole | NC1=C(C=C(C=C1C)N1N=CN=C1)C=O | C10H10N4O
